US07608622B2
To a solution of 6-bromo-1-(1-phenylethyl)-1,3-dihydroimidazo[4,5-b]pyrazin-2-one (47.2 mg, 0.15 mmol), 3,4,5-trimethoxyphenyl boronic acid (31.8 mg, 0.15 mmol) and potassium carbonate (62.2 mg, 0.45 mmol) in degassed 20% aq. dioxane (5 mL) was added dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (12 mg, 0.015 mmol) under an argon atmosphere. The mixture was stirred at 95° C. for 20 h, then cooled to room temperature and concentrated under reduced pressure. Purification of the resultant residue by flash chromatography [hexanes/ethyl acetate (2:1)] afforded 1-(1-phenylethyl)-6-(3,4,5-trimethoxyphenyl)-1,3-dihydro-imidazo[4,5-b]pyrazin-2-one as a white solid (36.6 mg, 60%). 1H NMR (300 MHz, DMSO): δ 12.10 (s, 1H), 8.53 (s, 1H), 7.51 (d, J=5.7 Hz, 2H), 7.33 (dd, J=5.7, 6.0 Hz, 2H), 7.26-7.22 (m, 1H), 7.23 (s, 2H), 5.71 (q, J=5.1 Hz, 1H), 3.84 (s, 6H), 3.67 (s, 3H), 1.97 (d, J=5.1 Hz, 3H). MS: 407.4 (M+H).

reactant | 6-bromo-1-(1-phenylethyl)-1,3-dihydroimidazo[4,5-b]pyrazin-2-one | 0.15 mmol, 47.2 mg | BrC1=CN=C2C(=N1)N(C(N2)=O)C(C)C2=CC=CC=C2 | C13H11BrN4O
reactant | 3,4,5-trimethoxyphenyl boronic acid | 0.15 mmol, 31.8 mg | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
reactant | potassium carbonate | 0.45 mmol, 62.2 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.015 mmol, 12 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(1-phenylethyl)-6-(3,4,5-trimethoxyphenyl)-1,3-dihydro-imidazo[4,5-b]pyrazin-2-one | 36.6 mg, 60% | C1(=CC=CC=C1)C(C)N1C(NC=2C1=NC(=CN2)C2=CC(=C(C(=C2)OC)OC)OC)=O | C22H22N4O4
